US07964643B2
2′,4′-Difluorobiphenyl-4-sulfonic acid-(5-hydroxypentyl)-amide (ABD-248)
Using a method analogous to that described in Example 40, 4-bromophenyl-sulfonic acid-(5-hydroxypentyl)-amide and 2,4-difluorophenyl boronic acid were reacted to give the title compound as a white solid. δC (CDCl3, 62.9 MHz): 22.7, 29.3, 31.9, 43.1, 62.5, 104.7 (t, J 25.8), 112.0 (dd, J 22.9 and 3.5), 127.3, 129.6, 131.5 (d, J 8.8), 131.5 (d, J 9.8), 139.1, 139.4, 159.8 (dd, J 252.0, 11.7) and 163.0 (dd, J 252.0, 11.7).

reactant | 4-bromophenyl-sulfonic acid-(5-hydroxypentyl)-amide | OCCCCCNS(=O)(=O)C1=CC=C(C=C1)Br | C11H16BrNO3S
reactant | 2,4-difluorophenyl boronic acid | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
product | 2′,4′-Difluorobiphenyl-4-sulfonic acid-(5-hydroxypentyl)-amide | OCCCCCNS(=O)(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F | C17H19F2NO3S
